US09079880B2
Cool a solution of trans-4-(3-bromo-phenyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester (0.50 g, 1.35 mmol) in pyridine (5 mL), to 0° C., and add 3-aminobenzonitrile (0.18 g, 1.48 mmol) followed by phosphorous oxychloride (0.14 mL, 1.50 mmol). Stir the mixture at 0° C. for 1 h then dilute with water. Extract the mixture with EtOAc and wash the combined organic portion with a 2 N solution of hydrochloric acid until the pH of the aqueous washings is strongly acidic. Wash the organic phase with brine then dry over anhydrous sodium sulfate and concentrate under reduced pressure. Purify the residue by flash silica gel chromatography to provide 0.53 g of trans-3-(3-bromo-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a solid.

reactant | trans-4-(3-bromo-phenyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | 1.35 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CC(=CC=C1)Br)C(=O)O | C16H20BrNO4
reactant | 3-aminobenzonitrile | 1.48 mmol, 0.18 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | phosphorous oxychloride | 1.50 mmol, 0.14 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | trans-3-(3-bromo-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.53 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C(NC1=CC(=CC=C1)C#N)=O)C1=CC(=CC=C1)Br | C23H24BrN3O3
